US09290451B2
b) 6-(Tetrahydro-pyran-4-yl)-pyridine-2-carboxylic acid
The title compound was synthesized in analogy to Example 7 b, using 6-(3,6-dihydro-2H-pyran-4-yl)-pyridine-2-carboxylic acid and 10% Pd/C as starting materials, MS (EI): m/e 208.1 [M+H]+.

reactant | 6-(3,6-dihydro-2H-pyran-4-yl)-pyridine-2-carboxylic acid | O1CCC(=CC1)C1=CC=CC(=N1)C(=O)O | C11H11NO3
catalyst | Pd/C | [Pd] | Pd
product | 6-(Tetrahydro-pyran-4-yl)-pyridine-2-carboxylic acid | O1CCC(CC1)C1=CC=CC(=N1)C(=O)O | C11H13NO3
